US07838674B2
a) [2-(5-Bromo-2-fluoro-phenoxy)-ethyl]-dimethyl-amine
5-Bromo-2-fluoro-phenol (5.0 g, 26.2 mmol), 2-Dimethylaminoethylchlorid×HCl (5.66 g, 39.3 mmol) and K2CO3 (11.0 g, 78.5 mmol) are suspended/dissolved in 260 ml dry acetone and stirred at room temperature for 72 hours. Addition of aqueous NaHCO3 solution and extraction into ethyl acetate yields a crude product which is further purified by chromatography on silica. 1H-NMR (400 MHz; DMSO-d6): 7.41 (d, 1H), 7.20 (dd, 1H), 7.08-7.14 (m, 1H), 4.15 (t, 2H), 2.63 (t, 2H), 2.22 (s, 6H). MS (m/z, ES+): 262 (MH+).

reactant | 5-Bromo-2-fluoro-phenol | 26.2 mmol, 5.0 g | BrC=1C=CC(=C(C1)O)F | C6H4BrFO
reactant | 2-Dimethylaminoethylchlorid | CN(CCCl)C | C4H10ClN
reactant | HCl | 39.3 mmol, 5.66 g | Cl | ClH
reactant | K2CO3 | 78.5 mmol, 11.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetone | 260 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [2-(5-Bromo-2-fluoro-phenoxy)-ethyl]-dimethyl-amine | BrC=1C=CC(=C(OCCN(C)C)C1)F | C10H13BrFNO
